US07615661B2
Structure X: 2-Isopropylsulfanyl-2-methyl-propionic acid ethyl ester
Ethyl 2-bromoisobutyrate (100 g, 0.513 mole), 2-propanethiol (42.95 g, 0.564 mole), potassium hydroxide (36.0 g, 0.564 mole), ethyl alcohol (200 g) were combined and reaction mixture was refluxed for three hours prior to quenching. Crude yield: 74.7%, distilled yield: 61.7%.

reactant | Ethyl 2-bromoisobutyrate | 0.513 mole, 100 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | 2-propanethiol | 0.564 mole, 42.95 g | CC(C)S | C3H8S
reactant | potassium hydroxide | 0.564 mole, 36.0 g | [OH-].[K+]
solvent | ethyl alcohol | 200 g | C(C)O | C2H6O
product | 2-Isopropylsulfanyl-2-methyl-propionic acid ethyl ester | yield: 61.7% | C(C)OC(C(C)(C)SC(C)C)=O | C9H18O2S
